US09278910B2
Prepared using General Procedures 6 and 9: To a stirred solution of 2-(4-methoxy-2-(trifluoromethyl)phenyl)acetic acid (500 mg, 2.14 mmol), methyl 4-amino-2-methoxybenzoate (387 mg, 2.14 mmol) and TEA (744 μL, 5.34 mmol) in DMF (5 mL) was added HATU (852 mg, 2.24 mmol). After 1 h the reaction mixture was diluted with EA (100 mL) and washed with brine (2×100 mL). The organic layer was pre-absorbed onto silica gel and then purified by chromatography (EA/isohexanes) to afford a white solid. The solid was diluted with THF (15 mL) and MeOH (10 mL) and then 1 N LiOH (427 μl, 4.27 mmol) was added and the solution stirred at room temperature. After 18 h the reaction mixture was acidified by the addition of 1 N HCl (50 mL) and the organics removed under vacuum. The residue was extracted with EA (100 mL) and the organics were washed with brine (200 mL) and dried over magnesium sulfate. The solvent was concentrated to afford 404 mg (49%) 2-methoxy-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid INT-23 as a white powder. LCMS-ESI (m/z) calculated for C18H16F3NO5: 237 found 236 [M−H]−, tR=1.90 min (Method 10).

reactant | 2-(4-methoxy-2-(trifluoromethyl)phenyl)acetic acid | 2.14 mmol, 500 mg | COC1=CC(=C(C=C1)CC(=O)O)C(F)(F)F | C10H9F3O3
reactant | methyl 4-amino-2-methoxybenzoate | 2.14 mmol, 387 mg | NC1=CC(=C(C(=O)OC)C=C1)OC | C9H11NO3
reactant | HATU | 2.24 mmol, 852 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | LiOH | 4.27 mmol, 1 N, 427 μl | [Li+].[OH-]
reactant | HCl | 1 N, 50 mL | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EA | 100 mL | CC(OCC)=O | C4H8O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
product | 2-methoxy-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzoic acid | 404 mg, 49% | COC1=C(C(=O)O)C=CC(=C1)NC(CC1=C(C=C(C=C1)OC)C(F)(F)F)=O | C18H16F3NO5
